US09340538B2
Step B: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate (1.23 g, 3 mmol) was reacted with NBS (0.54 g, 3 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (1.02 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate | 3 mmol, 1.23 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)N1N=CN=C1 | C16H15BrFN5O2
reactant | NBS | 3 mmol, 0.54 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.02 g, 70% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)N1N=CN=C1 | C16H14Br2FN5O2
